US07652058B2
(3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole
A solution of (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole (55.8 mg, 0.12 mmol) and NIS (53 mg, 0.23 mmol) in 2 mL trifluoroacetic acid was stirred at rt for 40 min. Volatiles were removed. The crude was purified by reverse phase HPLC to afford the title compound.

reactant | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | 0.12 mmol, 55.8 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C=C1)F)C)(F)F | C24H24F7NO2
reactant | NIS | 0.23 mmol, 53 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3aS,6R,7R,7aR)-6-{(1R)-1-[3,5-bis(Trifluoromethyl)phenyl]ethoxy}-7-(4-fluoro-5-iodo-2-methylphenyl)octahydropyrano[3,4-c]pyrrole | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H](C)O[C@@H]1[C@H]([C@H]2[C@@H](CNC2)CO1)C1=C(C=C(C(=C1)I)F)C)(F)F | C24H23F7INO2
